US06500844B1
Step B: Methyl(+−)-trans-4-methylene-2-(3-thienyl)cyclopentanoate
A mixture of methyl 3-(3-thienyl)acrylate (10.0 g, 59.5 mmol), tetrakis(triphenylphosphine)palladium(0) (5.15 g, 5.6 mmol), 1,2-bis(diphenylphosphino)ethane (1.35 g, 3.4 mmol) and 2-((trimethylsilyl)methyl)-2-propen-1-yl acetate (20 g, 107 mmol) in THF (125 mL) under argon was heated to reflux for 24 h. The volatiles were then removed in vacuo and the residue was purified by FC (5% ethyl acetate in hexanes) to afford the title compound (11.4 g).

reactant | methyl 3-(3-thienyl)acrylate | 59.5 mmol, 10.0 g | S1C=C(C=C1)C=CC(=O)OC | C8H8O2S
reactant | 2-((trimethylsilyl)methyl)-2-propen-1-yl acetate | 107 mmol, 20 g | C(C)(=O)OCC(=C)C[Si](C)(C)C | C9H18O2Si
solvent | THF | 125 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 5.6 mmol, 5.15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | 1,2-bis(diphenylphosphino)ethane | 3.4 mmol, 1.35 g | C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H24P2
product | Methyl(+−)-trans-4-methylene-2-(3-thienyl)cyclopentanoate | 11.4 g | C=C1C[C@H]([C@@H](C1)C(=O)OC)C1=CSC=C1 | C12H14O2S
